US08541588B2
4-(biphenyl-2-yloxy)-3-cyanobenzenesulfonyl chloride
A mixture of 5-benzylsulfamyl-2-(biphenyl-2-yloxy)-benzonitrile (Preparation 56, 6.06 g, 15.4 mmol), dichloromethane and aq HCl was stirred vigorously with cooling (ice bath). Sodium hypochlorite was added dropwise over 30 minutes and stirring continued with cooling for 1 hour. The layers were separated, the aqueous extracted with dichloromethane (2×100 ml), and the organic collected, dried (MgSO4) and concentrated in vacuo. The residue was purified using silica gel column chromatography (ethyl acetate:Heptane 10/90 to 20/80) to furnish 4.58 g of the title compound. 1HNMR (CDCl3): δ 6.7 (m, 1H), 7.2-7.6 (m, 9H), 7.85 (m, 1H), 8.15 (m, 1H).

reactant | 5-benzylsulfamyl-2-(biphenyl-2-yloxy)-benzonitrile | 15.4 mmol, 6.06 g | C(C1=CC=CC=C1)NS(=O)(=O)C=1C=CC(=C(C#N)C1)OC1=C(C=CC=C1)C1=CC=CC=C1 | C26H20N2O3S
reactant | HCl | Cl | ClH
reactant | Sodium hypochlorite | Cl[O-].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-(biphenyl-2-yloxy)-3-cyanobenzenesulfonyl chloride | 4.58 g | C1(=C(C=CC=C1)OC1=C(C=C(C=C1)S(=O)(=O)Cl)C#N)C1=CC=CC=C1 | C19H12ClNO3S
